US08486953B2
Preparation of 3-fluoro-4-nitro-benzamide
To a stirred solution of 3-fluoro-4-nitrobenzonitrile (15 g, 90.3 mmol) and K2CO3 (25.03 g, 181.1 mmol) in 100 mL of acetone/water (4:1) was added urea hydrogen peroxide adduct (16.99 g, 180.6 mmol) and the reaction stirred overnight at ambient temperature. DCM (100 mL) and water (500 mL) were added to the reaction mixture, the solution partitioned and the organic layer separated. The aqueous layer was extracted with DCM (3×100 mL) and the combined organic portions, washed with brine (100 mL), filtered through Celite and passed through a PTFE separation frit. The solvent was concentrated in vacuo and the title compound obtained as an orange solid (10 g, 60% yield) after recrystallisation from EtOAc/petroleum ether (40-60° C.).

reactant | 3-fluoro-4-nitrobenzonitrile | 90.3 mmol, 15 g | FC=1C=C(C#N)C=CC1[N+](=O)[O-] | C7H3FN2O2
reactant | K2CO3 | 181.1 mmol, 25.03 g | C(=O)([O-])[O-].[K+].[K+]
reactant | urea hydrogen peroxide adduct | 180.6 mmol, 16.99 g | C(=O)(N)N.OO
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | acetone water | 100 mL | CC(=O)C.O
solvent | water | 500 mL | O | H2O
product | 3-fluoro-4-nitro-benzamide | FC=1C=C(C(=O)N)C=CC1[N+](=O)[O-] | C7H5FN2O3
